US04208430
2,3-Dichlorotoluene (8.05 g., 0.05 mol.) dissolved in 150 ml. of carbon tetrachloride containing N-bromosuccinimide (8.9 g., 0.05 mol.) was heated to reflux and irradiated with a 275-watt sunlamp for two hours. The mixture was cooled, filtered and evaporated to give α-bromo-2,3-dichlorotoluene. The α-bromo-2,3-dichlorotoluene (2.4 g., 0.01 mol.) and thiourea (0.38 g., 0.005 mol.) were dissolved in 25 ml. of ethanol and refluxed for about sixteen hours. The mixture was cooled, concentrated, treated with ether, filtered and the filter cake recrystallized from water to give carbamimidothioic acid 2,3-dichlorobenzyl ester, m.p. 238°-243° C. (dec.).

reactant | α-bromo-2,3-dichlorotoluene | 0.01 mol, 2.4 g | BrCC1=C(C(=CC=C1)Cl)Cl | C7H5BrCl2
reactant | thiourea | 0.005 mol, 0.38 g | NC(=S)N | CH4N2S
solvent | ethanol | C(C)O | C2H6O
product | carbamimidothioic acid 2,3-dichlorobenzyl ester | ClC1=C(CSC(N)=N)C=CC=C1Cl | C8H8Cl2N2S
